US07297700B2
Preparation of 2-Adamantan-1-yl-N-(7-benzyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-4-yl)-acetamide (Compound 342)
7-Benzyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-4-ylamine (48 mg, 0.202 mmol) in 6 ml of dioxane was treated with NMM (22 μl, 0.202 mmol) followed by adamantan-1-yl-acetyl chloride (0.043 g, 0.202 mmol) and stirred at rt under argon. The reaction was monitored by TLC and LCMS. Excess acid chloride was added and the reaction was stirred. The contents were concentrated and purified by HPLC to afford the desired product (3.3 mg, 4%).

reactant | 7-Benzyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-4-ylamine | 0.202 mmol, 48 mg | C(C1=CC=CC=C1)N1CCC=2C(=CC=NC2C1)N | C15H17N3
reactant | NMM | 0.202 mmol, 22 μl | CN1CCOCC1 | C5H11NO
reactant | adamantan-1-yl-acetyl chloride | 0.202 mmol, 0.043 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 2-Adamantan-1-yl-N-(7-benzyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-4-yl)-acetamide | 3.3 mg, 4% | C12(CC3CC(CC(C1)C3)C2)CC(=O)NC2=CC=NC=3CN(CCC23)CC2=CC=CC=C2 | C27H33N3O
